US06579328B2
4,4′-Bis(2,2,6,6-tetramethylpiperidin-1-yloxy)benzophenone
The procedure of Example 1 is repeated using 1.95 g (12.5 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidine, 6.19 g (60 mmol) of tert-butyl nitrite, 7.6 mg (0.0125 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II), 80 mL of pyridine and 5.30 g (25 mmol) of 4,4′-diaminobenzophenone at 70° C. The crude product obtained is purified by vacuum flash chromatography (1% ethyl acetate in heptane) to give 0.6 g of the title compound as a yellow solid in 9.17% yield. The structure is confirmed by 1Hnmr and mass spectrographic analysis.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidine | 12.5 mmol, 1.95 g | ON1C(CCCC1(C)C)(C)C | C9H19NO
reactant | tert-butyl nitrite | 60 mmol, 6.19 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4,4′-diaminobenzophenone | 25 mmol, 5.30 g | NC1=CC=C(C(=O)C2=CC=C(C=C2)N)C=C1 | C13H12N2O
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 4,4′-Bis(2,2,6,6-tetramethylpiperidin-1-yloxy)benzophenone | 0.6 g, 9.17% yield | CC1(N(C(CCC1)(C)C)OC1=CC=C(C(=O)C2=CC=C(C=C2)ON2C(CCCC2(C)C)(C)C)C=C1)C | C31H44N2O3
